US07915250B2
3-(1-amino-2-methylpropyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol
1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(2-methyl-1-nitropropyl)azetidin-3-ol (189 mg, 0.34 mmol) was taken into 4:1 THF:water (5 mL) followed by addition of iron powder (192 mg, 3.4 mmol) and ammonium formate (429 mg, 6.8 mmol) and the mixture was heated to reflux. After four hours additional aliquots of iron powder (192 mg, 3.4 mmol) and ammonium formate (429 mg, 6.8 mmol) were added and the mixture was allowed to reflux an additional 12 hours. The mixture was cooled to room temperature and diluted with ethyl acetate then filtered. The filtrate was partitioned with ethyl acetate and saturated aqueous sodium bicarbonate then the organic layer washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration afforded a residue that was further purified by silica gel flash chromatography using ethyl acetate to 10% methanol in dichloromethane as eluents to give a residue (36.5 mg) that was further purified by preparative reverse phase HPLC to give 3-(1-amino-2-methylpropyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol trifluoroacetate salt (7.9 mg) as a colorless amorphous solid after lyophillization of the combined pure fractions. 1H-NMR (400 MHz, D6-DMSO): 8.63 (s, 1H), 7.58 (dd, 1H), 7.37 (d, 1H), 7.35-7.31 (m, 1H), 7.17 (q, 1H), 6.71-6.66 (m, 1H), 4.23 (dd, 1H), 4.03 (dd, 1H), 3.80 (dd, 1H), 3.66 (dd, 1H), 2.34 (dd, 1H), 1.79-1.70 (m, 1H), 0.84-0.77 (m, 6H). MS (EI) for C20H21F3IN3O2: 520 (MH+).

reactant | 1-({3,4-Difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-(2-methyl-1-nitropropyl)azetidin-3-ol | 0.34 mmol, 189 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)C(C(C)C)[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | C20H19F3IN3O4
reactant | THF | C1CCOC1 | C4H8O
reactant | water | 5 mL | O | H2O
reactant | ammonium formate | 6.8 mmol, 429 mg | C(=O)[O-].[NH4+]
reactant | ammonium formate | 6.8 mmol, 429 mg | C(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 3.4 mmol, 192 mg | [Fe] | Fe
catalyst | iron | 3.4 mmol, 192 mg | [Fe] | Fe
product | 3-(1-amino-2-methylpropyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 36.5 mg | NC(C(C)C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C20H21F3IN3O2
